US05178792
1.8 g of dodecanoyl chloride and 2.0 ml of triethylamine are added to a solution of 1.65 g of 8-cyclohexadecen-1-ol in 25 ml of diethyl ether. After heating to reflux for 5 hours, the mixture is poured into 100 ml of H2O, the organic phase is separated off, the aqueous phase is extracted with 25 ml of diethyl ether, and the combined organic phases are evaporated in vacuo. Purification of the residue by chromatography on silica gel using dichloromethane/hexane 1:3 gives 1.05 g of 8-cyclohexadecen-1-yl dodecanoate as a viscous oil.

reactant | dodecanoyl chloride | 1.8 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | 8-cyclohexadecen-1-ol | 1.65 g | C1(CCCCCCC=CCCCCCCC1)O | C16H30O
reactant | H2O | 100 ml | O | H2O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 8-cyclohexadecen-1-yl dodecanoate | 1.05 g | C(CCCCCCCCCCC)(=O)OC1CCCCCCC=CCCCCCCC1 | C28H52O2
